US05635510
20.4.1 Resolution of (+)-3-(3,4-dichloro-phenyl)-3-(2-hydroxy-ethyl)-pyrrolidine (R, R)-di-p-anisoyltartaric acid salt
Combine 3-(3,4-dichloro-phenyl)-3-(2-hydroxy-ethyl)-pyrrolidine (1.0 g, 38.5 mmol) and butanone. Add a solution of (R, R)-di-p-anisoyltartaric acid (1.6 g, 38.0 mmol) in butanone (80 mL). Heat to reflux. After 15 minutes, cool to ambient temperature and then cool further in an ice-salt bath. Filter the solid that forms and rinse with butanone. Recrystallize the solid from water/methanol to give the title compound: mp; 201°-204° C. (dec). Analysis on HPLC, on an analytical sample of the free amine obtained by extraction, using a CHIRALPAK AD 25 cm X 0.46 cm column eluting with pentane/methanol/triethylamine (90/10/0.1) with a flow rate of 1.0 mL/minute indicates an enantiomeric excess of 96%, (96% ee), retention time of the (+)-isomer 11.2 minutes, retention time of the (-)-isomer 14.5 minutes.

reactant | 3-(3,4-dichloro-phenyl)-3-(2-hydroxy-ethyl)-pyrrolidine | 38.5 mmol, 1.0 g | ClC=1C=C(C=CC1Cl)C1(CNCC1)CCO | C12H15Cl2NO
reactant | (R, R)-di-p-anisoyltartaric acid | 38.0 mmol, 1.6 g | C(C1=CC=C(C=C1)OC)(=O)[C@@]([C@@](C(=O)O)(O)C(C1=CC=C(C=C1)OC)=O)(O)C(=O)O | C20H18O10
solvent | butanone | 80 mL | CC(CC)=O | C4H8O
product | (+)-3-(3,4-dichloro-phenyl)-3-(2-hydroxy-ethyl)-pyrrolidine (R, R)-di-p-anisoyltartaric acid | C(C1=CC=C(C=C1)OC)(=O)[C@@]([C@@](C(=O)O)(O)C(C1=CC=C(C=C1)OC)=O)(O)C(=O)O.ClC=1C=C(C=CC1Cl)C1(CNCC1)CCO | InChI=1S/C20H18O10.C12H15Cl2NO/c1-29-13-7-3-11(4-8-13)15(21)19(27,17(23)24)20(28,18(25)26)16(22)12-5-9-14(30-2)10-6-12;13-10-2-1-9(7-11(10)14)12(4-6-16)3-5-15-8-12/h3-10,27-28H,1-2H3,(H,23,24)(H,25,26);1-2,7,15-16H,3-6,8H2/t19-,20-;/m1./s1
